US05034417
A solution of potassium 2,4-difluorothiophenoxide (5.5 g) in N,N-dimethylformamide (9 ml) was added dropwise to a solution of 4'-chloro-3'-nitroacetophenone (5 g) in toluene (50 ml). The mixture was stirred at room temperature for 2 hours, washed with water, dried and evaporated to dryness. The residue was washed with a mixture of hexane and ethanol to give crystals of 4'-(2,4-difluorophenylthio)-3'-nitroacetophenone (7.4 g).

reactant | potassium 2,4-difluorothiophenoxide | 5.5 g | FC1=C([S-])C=CC(=C1)F.[K+]
reactant | 4'-chloro-3'-nitroacetophenone | 5 g | ClC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C8H6ClNO3
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-(2,4-difluorophenylthio)-3'-nitroacetophenone | 7.4 g | FC1=C(C=CC(=C1)F)SC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C14H9F2NO3S
